US05663410
According to Ann. N.Y. Acad. Sci (1988), 544, pages 86 to 100 (Chem. Abstr. 111, 208650), 4-tetrafluoropropoxycinnamonitrile can be prepared in the following manner. 4-Fluorobenzonitrile is reacted with 2,2,3,3-tetrafluoropropanol to give 4-(2,2,3,3-tetrafluoropropoxy)benzonitrile which is then reduced by complex hydrides to give 4-(2,2,3,3-tetrafluoropropoxy)benzaldehyde. The 4-(2,2,3,3-tetrafluoropropoxy)benzaldehyde leads to the 4-tetrafluoropropoxycinnamonitrile by reaction with the anion of diethyl cyanomethylphosphonate in the context of a Wittig-Horner reaction.

reactant | 4-tetrafluoropropoxycinnamonitrile | FC(CC(F)(F)F)OC1=CC=C(C=CC#N)C=C1 | C12H9F4NO
reactant | 4-Fluorobenzonitrile | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | 2,2,3,3-tetrafluoropropanol | FC(CO)(C(F)F)F | C3H4F4O
product | 4-(2,2,3,3-tetrafluoropropoxy)benzonitrile | FC(COC1=CC=C(C#N)C=C1)(C(F)F)F | C10H7F4NO
